US08110579B2
Put 600 mg (1.08 mmol) of methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-[2-(diphenylmethylidene)hydrazino]pyridine-2-carboxylate, 378 mg (3.78 mmol) of 2,4-pentanedione, 186 mg (1.08 mmol) of paratoluenesulphonic acid and 5 mL of ethanol in a screw-top bottle. Heat the mixture at 120° C. while stirring for 48 h, then cool, and concentrate under reduced pressure. Then distribute the residue in 50 mL of EtOAc and 50 mL of a saturated aqueous solution of NaHCO3. Dry the organic phase over Na2SO4 and concentrate under reduced pressure. Purify the residue obtained by silica gel column chromatography, eluting with a heptane/EtOAc gradient from 0 to 50% of EtOAc. After concentration under reduced pressure, we obtain 235 mg of ethyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-(3,5-dimethyl-1H-pyrazol-1-yl)pyridine-2-carboxylate in the form of oil.

reactant | methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-[2-(diphenylmethylidene)hydrazino]pyridine-2-carboxylate | 1.08 mmol, 600 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)C1=C(C=CC(=N1)C(=O)OC)NN=C(C1=CC=CC=C1)C1=CC=CC=C1 | C33H26ClN3O3
reactant | 2,4-pentanedione | 3.78 mmol, 378 mg | CC(CC(C)=O)=O | C5H8O2
reactant | paratoluenesulphonic acid | 1.08 mmol, 186 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | ethyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-(3,5-dimethyl-1H-pyrazol-1-yl)pyridine-2-carboxylate | 235 mg, Yield=47% | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)C1=C(C=CC(=N1)C(=O)OCC)N1N=C(C=C1C)C | C26H24ClN3O3
